US07612211B2
B. 2-[2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazol-5-yl]-benzoic acid
To a solution of 2-[2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazol-5-yl]-benzoic acid methyl ester (0.494 g, 1.16 mmol) in mixed solvent (30 mL, MeOH: H2O=3:1) was added lithium hydroxide (0.166 g, 6.95 mmol). After stirring for 12 hours, the reaction mixture was diluted with EtOAc and acidified by aqueous 3N HCl. The organic layer was washed with brine, dried over Na2SO4, filtered, and the filtrate was concentrated under reduced pressure to afford the title compound as a white solid (0.435 g, 91%).

reactant | 2-[2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazol-5-yl]-benzoic acid methyl ester | 1.16 mmol, 0.494 g | COC(C1=C(C=CC=C1)C1=CC2=C(NC(=N2)COC2=CC=C(C=C2)C(F)(F)F)C=C1)=O | C23H17F3N2O3
reactant | MeOH | CO | CH4O
reactant | lithium hydroxide | 6.95 mmol, 0.166 g | [OH-].[Li+]
reactant | HCl | 3N | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
product | 2-[2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazol-5-yl]-benzoic acid | 0.435 g, 91% | FC(C1=CC=C(OCC2=NC3=C(N2)C=CC(=C3)C3=C(C(=O)O)C=CC=C3)C=C1)(F)F | C22H15F3N2O3
